US06884868B1
To a suspension of 1-(4-hydroxyphenyl)piperazine (50 g) and potassium carbonate (46.5 g) in N,N-dimethylformamide (100 ml) was added dropwise benzyl chloroformate (47.86 g) at 0 to 10° C., and stirred for 4 hours at ambient temperature. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was washed with brine and dried, and the solvent was evaporated under reduced pressure. The residue was chromatographed on a column of silica gel eluting with dichloromethane/methyl alcohol (30:1) to give 4-(4-hydroxyphenyl)piperazine-1-carboxylic acid benzyl ester (60.8 g).

reactant | 1-(4-hydroxyphenyl)piperazine | 50 g | OC1=CC=C(C=C1)N1CCNCC1 | C10H14N2O
reactant | potassium carbonate | 46.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl chloroformate | 47.86 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-(4-hydroxyphenyl)piperazine-1-carboxylic acid benzyl ester | 60.8 g | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C18H20N2O3
